* Schematics Netlist *



L_L6         $N_0001 0  5mH  
L_L5         0 $N_0002  5mH  
D_D1         $N_0003 $N_0001 D1N914 
D_D2         $N_0004 $N_0002 D1N914 
D_D3         $N_0002 $N_0003 D1N914 
D_D4         $N_0001 $N_0004 D1N914 
L_L7         0 OUT_DSB  5mH  
Kn_K1         L_L1 L_L2 
+ L_L3    1
Kn_K2         L_L5 L_L6 
+ L_L7    1
L_L3         $N_0005 $N_0003  5mH  
L_L2         $N_0004 $N_0005  5mH  
R_R3         OUT_DSB 0  10  
V_Carrier         $N_0005 0  
+SIN 0 10 50k 0 0 0
L_L1         $N_0006 0  5mH  
R_R2         Baseband $N_0006  10  
V_V3         Baseband $N_0007 1V
V_Baseband         $N_0007 0 DC 0 
+SIN 0 1 1k 0 0 0
