* Schematics Netlist *



R_R7         $N_0002 $N_0001  10  
R_R2         $N_0003 A1+  1  
D_D10         $N_0001 $N_0004 D1N914 
D_D14         K $N_0001 D1N914 
V_Vm         $N_0003 0  
+SIN 0 1 1K 0 0 0
L_L1         A1+ 0  5mH  
L_L3A         K 0  5mH  
L_L3B         0 $N_0004  5mH  
R_R5         A2+ A  10  
D_D9         A K D1N914 
D_D15         $N_0004 A D1N914 
L_L2B         $N_0005 $N_0002  5mH  
L_L2A         A2+ $N_0005  5mH  
V_Vp         $N_0005 0  
+SIN 0 10 50K 0 0 0
L_L4         DSB 0  5mH  
R_R10         0 DSB  1K  
Kn_K1         L_L1 L_L2A 
+ L_L2B    1
Kn_K2         L_L3A L_L3B 
+ L_L4    1
