* Schematics Netlist *



R_R1         0 $N_0001  1k  
X_U5A         $N_0002 --out--- +Vcc -Vcc --out--- LM324
V_Va         +Vcc 0 15V
V_Vb         -Vcc 0 -15V
Q_Q1         $N_0002 $N_0003 0 Q2N2222
R_R2         $N_0001 $N_0002  1k  
X_U4A         ---in--- $N_0001 +Vcc -Vcc $N_0002 LM324
R_R3         0 --out---  1k  
V_Vin         ---in--- 0  
+SIN 4 2 100 0 0 0
V_Vck         pulse 0  
+PULSE 0 5 0 1u 1u 0.92m 2m
R_R4         pulse $N_0003  1k  
